US07319104B2
4-(3-{(5-Ethylpyrimidin-2-yl)[3-(trifluoromethoxy)benzyl]amino}propyl)phenol
Similarly prepared from 5-ethyl-N-[3-(4-methoxyphenyl)propyl]pyrimidin-2-amine and 3-trifluoromethoxy benzyl bromide.

reactant | 5-ethyl-N-[3-(4-methoxyphenyl)propyl]pyrimidin-2-amine | C(C)C=1C=NC(=NC1)NCCCC1=CC=C(C=C1)OC | C16H21N3O
reactant | 3-trifluoromethoxy benzyl bromide | FC(OC=1C=C(CBr)C=CC1)(F)F | C8H6BrF3O
product | 4-(3-{(5-Ethylpyrimidin-2-yl)[3-(trifluoromethoxy)benzyl]amino}propyl)phenol | C(C)C=1C=NC(=NC1)N(CCCC1=CC=C(C=C1)O)CC1=CC(=CC=C1)OC(F)(F)F | C23H24F3N3O2
